US07432270B2
(S)-2-([1,5]Naphthyridin-2-ylaminomethyl)-piperidine-1-carboxylic acid tert butyl ester
The title compound (0.48 g) was prepared from (S)-2-aminomethyl-piperidine-1-carboxylic acid tert-butyl ester (0.59 g) and 2-chloro-1,5-naphthyridine Rapoport, et al J. Org. Chem (1971), 36(3), 450-4 (0.40 g) according to the method of D30.

reactant | (S)-2-aminomethyl-piperidine-1-carboxylic acid tert-butyl ester | 0.59 g | C(C)(C)(C)OC(=O)N1[C@@H](CCCC1)CN | C11H22N2O2
reactant | 2-chloro-1,5-naphthyridine | ClC1=NC2=CC=CN=C2C=C1 | C8H5ClN2
product | (S)-2-([1,5]Naphthyridin-2-ylaminomethyl)-piperidine-1-carboxylic acid tert butyl ester | 0.48 g | C(C)(C)(C)OC(=O)N1[C@@H](CCCC1)CNC1=NC2=CC=CN=C2C=C1 | C19H26N4O2
